US04619922
A suspension of 5 g of sodium acetate in 150 ml of chloroform and 150 ml of methylal is combined with 5 g of 21-acetoxy-9α-fluoro-17α-hydroxy-16α-methyl-11β-trifluoroacetoxy-4-pregnene-3,20-dione and, after adding 19 ml of phosphorus oxychloride dropwise, stirred for 4 hours at a bath temperature of 180° C. The reaction solution is neutralized with a saturated soda solution, the organic phase is separated and washed with water. After drying and concentrating, the crude product is purified on silica gel with a hexane-ethyl acetate gradient (0-50% ethyl acetate), thus isolating 2.9 g of 21-acetoxy-17α-hydroxy-16α-methyl-6-methylene-11β-trifluoroacetoxy-4-pregnene-3,20,-dione, mp 217°-219° C.

reactant | sodium acetate | 5 g | C(C)(=O)[O-].[Na+]
reactant | 21-acetoxy-9α-fluoro-17α-hydroxy-16α-methyl-11β-trifluoroacetoxy-4-pregnene-3,20-dione | 5 g | C(C)(=O)OCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@]3([C@H](C[C@]12C)OC(C(F)(F)F)=O)F)=O)C)O)=O | C26H32F4O7
reactant | phosphorus oxychloride | 19 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylal | 150 ml | COCOC | C3H8O2
product | 21-acetoxy-17α-hydroxy-16α-methyl-6-methylene-11β-trifluoroacetoxy-4-pregnene-3,20,-dione | 2.9 g | C(C)(=O)OCC([C@]1([C@@H](C[C@H]2[C@@H]3CC(C4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)OC(C(F)(F)F)=O)=O)=C)C)O)=O | C27H33F3O7
